US07572922B2
Methyl (2R)-3-amino-2-hydroxypropanoate hydrochloride
Benzyl [(4R)-2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl]methylcarbamate (7.76 g) prepared by the method described in Step B above was dissolve in methanol (70 mL) with 0.62 g 10% Pd/C. A 1 M HCl in ether solution was added (25 mL). This mixture was hydrogenated using a hydrogen balloon for 22 hours. The reaction mixture was purged with nitrogen, filtered though a pad of Celite, and evaporated under vacuum to give the title compound as a yellowish solid. 1H NMR (CD3OD, 500 MHz) δ 4.45 (dd, J=4 and 8 Hz, 1H), 3.82 (s, 3H), 3.31 (dd, 1H), 3.15 (dd, J=8 and 13 Hz, 1H).

reactant | Benzyl [(4R)-2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl]methylcarbamate | 7.76 g | CC1(OC([C@H](O1)CNC(OCC1=CC=CC=C1)=O)=O)C | C14H17NO5
reactant | HCl | 1 M | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | methanol | 70 mL | CO | CH4O
solvent | ether | CCOCC | C4H10O
catalyst | Pd/C | 0.62 g | [Pd] | Pd
product | Methyl (2R)-3-amino-2-hydroxypropanoate hydrochloride | Cl.NC[C@H](C(=O)OC)O | InChI=1S/C4H9NO3.ClH/c1-8-4(7)3(6)2-5;/h3,6H,2,5H2,1H3;1H/t3-;/m1./s1
